US06476055B1
A mixture of 4-phenoxyphenylacetophenone (6.36 g), trimethylsilylcyanide (3.96 g) and magnesium iodide (10 mg) in methylene chloride (30 ml) was stirred for 12 hrs at room temperature, 156 hydrochloric acid (10 ml) was then added. The mixture was again stirred for 8 hrs at room temperature. The organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in benzene (50 ml) and pyridine (2.37 g) and thionyl chloride (4.76 g) were added at 0° C. with stirring. The reaction mixture was stirred for an additional 3 hrs at room temperature and then the solvent was evaporated. The residue was purified by column chromatography to give 7.09 g of 2-chloro-2-(4-phenoxyphenyl)propionitrile as an oil.

reactant | 4-phenoxyphenylacetophenone | 6.36 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C20H16O2
reactant | trimethylsilylcyanide | 3.96 g | C[Si](C)(C)C#N | C4H9NSi
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | magnesium iodide | 10 mg | [I-].[Mg+2].[I-]
product | 2-chloro-2-(4-phenoxyphenyl)propionitrile | 7.09 g | ClC(C#N)(C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C15H12ClNO
